US06166006
A mixture of ethyl 3-methoxy-4-(4-methylphenyl)ethynylbenzoate (1.5 g) and pyridinium chloride (9.0 g) was stirred at 200° C. for 2 hours, and then cooled to 100° C. To the mixture was added DMF (20 ml), and the mixture was cooled to room temperature. To the mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the precipitated crystals were collected by filtration, which were washed with diethylether and hexane to give pale yellow crystals of 2-(4-methylphenyl)benzofuran-6-carboxylic acid (0.84 g).

reactant | ethyl 3-methoxy-4-(4-methylphenyl)ethynylbenzoate | 1.5 g | COC=1C=C(C(=O)OCC)C=CC1C#CC1=CC=C(C=C1)C | C19H18O3
reactant | pyridinium chloride | 9.0 g | [Cl-].[NH+]1=CC=CC=C1
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(4-methylphenyl)benzofuran-6-carboxylic acid | 0.84 g | CC1=CC=C(C=C1)C=1OC2=C(C1)C=CC(=C2)C(=O)O | C16H12O3
